US06358980B1
2-[(4-chlorobenzyl)-(2-hydroxy-ethyl)-amino]-ethanol was prepared according to the general method as outlined in Example 1 (Step 4). Starting from diethanolamine (14.3 g, 95 mmol). and 4-chlorobenzyl chloride (10.2 g, 63 mmol). Yield 12.1 g, (84%); yellow oil; MS: 230 (M+H)+

reactant | diethanolamine | 95 mmol, 14.3 g | N(CCO)CCO | C4H11NO2
reactant | 4-chlorobenzyl chloride | 63 mmol, 10.2 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
product | 2-[(4-chlorobenzyl)-(2-hydroxy-ethyl)-amino]-ethanol | ClC1=CC=C(CN(CCO)CCO)C=C1 | C11H16ClNO2
